US07365085B2
e. 2-Phenyl-4-methylpentylamine
The titled compound was prepared from 2-phenyl-4-methylpentanoic acid amide in 51% yield in the same manner as the preparation of 2-(4-methoxyphenyl)propylamine in Example 188c. MS (ESI) 178 (MH+)

reactant | 2-phenyl-4-methylpentanoic acid amide | C1(=CC=CC=C1)C(C(=O)N)CC(C)C | C12H17NO
reactant | 2-(4-methoxyphenyl)propylamine | COC1=CC=C(C=C1)C(CN)C | C10H15NO
product | 2-Phenyl-4-methylpentylamine | 51% yield | C1(=CC=CC=C1)C(CN)CC(C)C | C12H19N
